US06221879B1
8-Benzoyl-N-((4-oxo-2,3-dihydro-4H-1-benzopyran-3-yl)methyl]-8-azabicyclo[3.2.1]octane-3-methanamine hydrochloride
1.71 g (6.1 mmol) of 8-benzoyl-8-azabicyclo[3.2.1]octane-3-methanamine hydrochloride, 0.2 g (6.3 mmol) of paraformaldehyde and a few drops of concentrated hydrochloric acid in 10 ml of 2-propanol are introduced into a three-necked round-bottomed flask, the mixture is refluxed for 5 min, 0.78 g (5.3 mmol) of 2,3-dihydro-4H-1-benzopyran-4-one dissolved in 10 ml of 2-propanol is added and refluxing is continued for 18 h.

reactant | 8-benzoyl-8-azabicyclo[3.2.1]octane-3-methanamine hydrochloride | 6.1 mmol, 1.71 g | Cl.C(C1=CC=CC=C1)(=O)N1C2CC(CC1CC2)CN
reactant | paraformaldehyde | 6.3 mmol, 0.2 g | C=O | CH2O
reactant | 2,3-dihydro-4H-1-benzopyran-4-one | 5.3 mmol, 0.78 g | O1CCC(C2=C1C=CC=C2)=O | C9H8O2
catalyst | hydrochloric acid | a few drops | Cl | ClH
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | 8-Benzoyl-N-((4-oxo-2,3-dihydro-4H-1-benzopyran-3-yl)methyl]-8-azabicyclo[3.2.1]octane-3-methanamine hydrochloride | Cl.C(C1=CC=CC=C1)(=O)N1C2CC(CC1CC2)CNCC2COC1=C(C2=O)C=CC=C1 | InChI=1S/C25H28N2O3.ClH/c28-24-19(16-30-23-9-5-4-8-22(23)24)15-26-14-17-12-20-10-11-21(13-17)27(20)25(29)18-6-2-1-3-7-18;/h1-9,17,19-21,26H,10-16H2;1H
